US05064861
STEP B: N-(tert-butoxycarbonyl)-N'-(1-naphthyl acetyl)-1,4-diamino-butane
A solution of 16.3 g of 1-naphthyl-acetic acid chloride in 80 ml of chloroform was added at +10° C. to a solution cooled to +10° C. of 15 g of N-(tert-butoxycarbonyl)-1,4-diamino butane, 100 ml of chloroform and 14 ml of triethylamine and after one hour of stirring at ambient temperature, the mixture was concentrated to dryness under reduced pressure. The residue was taken up in water, separated and dried under reduced pressure at 50° C. to obtain 27.8 g of the expected product.

reactant | 1-naphthyl-acetic acid chloride | 16.3 g | C1(=CC=CC2=CC=CC=C12)CC(=O)Cl | C12H9ClO
reactant | N-(tert-butoxycarbonyl)-1,4-diamino butane | 15 g | C(C)(C)(C)OC(=O)NCCCCN | C9H20N2O2
reactant | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(tert-butoxycarbonyl)-N'-(1-naphthyl acetyl)-1,4-diamino-butane | 27.8 g | C(C)(C)(C)OC(=O)NCCCCNC(CC1=CC=CC2=CC=CC=C12)=O | C21H28N2O3
